### PR TITLE
Dual ereal

### PR DESCRIPTION
**Pull request by proux01**
In Coquelicot, -oo + +oo was defined as 0, which was nice for morphisms with opposite but terrible as addition was not even associative. In ereal.v, the addition adde is such that -oo + +oo = -oo, making it associative an such that (er R, Order.max, adde) is a semiring (the id element -oo of Order.max is a zero for adde). However, sometimes we rather need (er R, Order.min, adde) to be a semiring, with -oo + +oo = +oo. This PR offers that, I don't know if we want it in analysis?

~depends on: #403~ (merged)

### CODE REVIEW

**Comment by CohenCyril** [comment]
I'd rather keep extended reals a commutative monoid (which was the case before this PR), this is crucial for taking maximal advantage of bigops.

**Comment by proux01** [comment]
I fully agree, this PR doesn't change anything about extended reals, just offers dual extended reals where -oo++oo = +oo instead of -oo.

**Comment by CohenCyril** [comment]
Also, I would integrate it within `ereal`

**Comment by proux01** [comment]
> * I cannot foresee a use yet (could you point me towards a concrete example)

We use it in a formalization of Network Calculus (a static analysis for networks, used to certify embedded networks in civil aircrafts) that is based on min-plus algebra. Sorry, can't share the code yet due to licencing issues (hope to finally fix that in the coming weeks).

> * I would not integrate this within the same scope and same names. We could use for example `%dE` (for "dual Extended") an the names could be prefixed with `dual_`?

Would indeed make sense to enable mix use of both regular and dual versions (no idea if that can arise though).

**Comment by CohenCyril** [comment]
> Would indeed make sense to enable mix use of both regular and dual versions (no idea if that can arise though).

I think it can... and I forgot about providing correspondance lemmas under the negation `add_undef` precondition.
(Although we might very well switch to `add_def` as per #365)

File: theories/ereal.v [hunk 1]
```diff
@@ -233,23 +238,36 @@ Notation "@ 'gte' R" :=
   (@Order.gt ereal_display R) (at level 10, R at level 8, only parsing).
 
 Notation "x <= y" := (lee x y) (only printing) : ereal_scope.
+Notation "x <= y" := (lee x y) (only printing) : ereal_dual_scope.
```
Comment (CohenCyril) [inline theories/ereal.v:241]: Notations in the `ereal_dual_scope`  must not take precedence, they should be declared before their `ereal_scope` counterpart. Moreover, I do not see the point unless the variables of the notations are "rescoped" inside `ereal_dual_scope`. I'm also tempted to suggest one definies an alias `dual_ereal := ereal` and uses `Bind Scope` on this type to make sure arguments are correctly scoped.

File: theories/ereal.v [hunk 2]
```diff
@@ -311,6 +329,15 @@ Definition adde x y :=
   | _    , +oo => +oo
   end.
 
+Definition dadde x y :=
```
Comment (CohenCyril) [inline theories/ereal.v:332]: For the operators, I'd use a longer name, like `dual_adde`

File: theories/ereal.v [hunk 3]
```diff
@@ -325,45 +352,85 @@ Definition mule x y :=
...
+  end.
+
 Definition abse x := if x is r%:E then `|r|%:E else +oo.
 
 End ERealArith.
 
 Notation "+%E"   := adde.
+Notation "+%dE"   := dadde.
 Notation "-%E"   := oppe.
+Notation "-%dE"   := oppe.
```
Comment (CohenCyril) [inline theories/ereal.v:369]: I do not understand this one, it should a minima be declared before the other one, so as not to take precedence... But I'm not sure how useful this can be...

File: theories/ereal.v [hunk 4]
```diff
@@ -325,45 +352,85 @@ Definition mule x y :=
...
 Notation "x + y" := (adde x y) : ereal_scope.
+Notation "x + y" := (dadde x y) : ereal_dual_scope.
 Notation "x - y" := (adde x (oppe y)) : ereal_scope.
+Notation "x - y" := (dadde x (oppe y)) : ereal_dual_scope.
 Notation "- x"   := (oppe x) : ereal_scope.
+Notation "- x"   := (oppe x) : ereal_dual_scope.
```
Comment (CohenCyril) [inline theories/ereal.v:375]: swap not to take precedence, and make sure `x` is correctly scoped

File: theories/ereal.v [hunk 5]
```diff
@@ -325,45 +352,85 @@ Definition mule x y :=
...
 Definition abse x := if x is r%:E then `|r|%:E else +oo.
 
 End ERealArith.
 
 Notation "+%E"   := adde.
+Notation "+%dE"   := dadde.
 Notation "-%E"   := oppe.
+Notation "-%dE"   := oppe.
 Notation "x + y" := (adde x y) : ereal_scope.
+Notation "x + y" := (dadde x y) : ereal_dual_scope.
```
Comment (CohenCyril) [inline theories/ereal.v:371]: One should make sure `x` and `y` are correctly scoped (same for multiplication etc.)

File: theories/ereal.v [hunk 6]
```diff
@@ -419,13 +486,23 @@ Proof. by case: x => //=; rewrite oppr0. Qed.
 Lemma addERFin (r r' : R) : (r + r')%R%:E = r%:E + r'%:E.
 Proof. by []. Qed.
 
+Lemma daddERFin (r r' : R) : (r + r')%R%:dE = (r%:dE + r'%:dE)%dE.
+Proof. by []. Qed.
+
```
Comment (CohenCyril) [inline theories/ereal.v:491]: Missing two compatibility lemmas :
```
Lemma dual_addeE (x y : \bar R) : (x + y)%dE = - ((- x) + (- y))%E.
Lemma dual_sumeE I (r : seq I) (P : {pred I}) (F : I -> \bar R) : (\sum_(i <- r | P i) F i)%dE = - (\sum_(i <- r | P i) - F i)%E.
Lemma def_dual_addeE (x y : \bar R) : ~~ add_undef x y -> (x + y)%dE = (x + y)%E.
```
Then in the remainder of this file, I find that interleaving ereal lemmas with dual ones clutters the code.
I would put all dual lemmas in a single section and prove them all using `dual_addeE` and `dual_sumeE`

**Review by CohenCyril — CHANGES_REQUESTED** [review]

File: theories/ereal.v (hunk 6 above)
Comment (proux01) [reply theories/ereal.v]: Makes sense, I had to add a few lemmas in order to prove everything by duality but that did work.

File: theories/ereal.v (hunk 3 above)
Comment (proux01) [reply theories/ereal.v]: Indeed quite useless, removed.

**Comment by proux01** [comment]
@CohenCyril all your comments should be taken into account.

**Comment by proux01** [comment]
This is rebased on top of #403, `dual_mule` disappeared since it is now the same as `mule`.

**Comment by proux01** [comment]
Just rebased this on top of master now that #403 is merged.

**Comment by proux01** [comment]
@CohenCyril all notation seem to work properly (for instance `x + y <= -(x + y))%dE` uses dual_adde as expected and prints back identically), I just spotted an omission int the bigop notations and `+?` was missing in `ereal_dual_scope`.

**Comment by CohenCyril** [comment]
> @CohenCyril I'd like to rebase this on top of #459 once it is merged (to add lemmas about mine, the dual of maxe)

Sure. I also think that the new convention is to use `forall x : \bar R, x \in fin_num -> P x` rather than `forall r : R, P r%:E`.
I also think theorems about dual ereal should be encapsulated in a submodule and imported on demand.

**Comment by proux01** [comment]
Indeed, done, this should now be ready.

BTW, this dual add thing is used there: https://gitlab.mpi-sws.org/proux/nc-coq
I wanted to do opam and nix packages for CI when I realized I'm still using dioid master that relies on a nasty hack to use HB on top of current MC https://github.com/math-comp/dioid/blob/master/HB_wrappers.v . So I should probably wait for MC 2.0.

**Review by CohenCyril — APPROVED** [review]
Ok, thanks!, let's rebase and merge.

**Comment by proux01** [comment]
rebased

**Comment by proux01** [comment]
Thanks!
